* Z:\home\mainster\CODES_local\LTSpice_projects\Buckconverter.asc
L2 uout2 N004 8.9µ Rser=1.8m
C2 uout2 0 2200µ
V4 N001 0 13V
S4 0 N005 N007 0 SW1
R4 uout2 N005 3
R5 uout2 N006 0.65
S5 0 N006 N008 0 SW1
V7 N007 0 PULSE(0 1 1m 10n 10n 200m 400m)
V8 N008 0 PULSE(0 1 1m 10n 10n 200m 400m)
R3 N003 N002 5
M1 N004 N003 N001 N001 Si4427DY
R6 N001 N003 22k
V1 N002 0 PULSE(13 0 0 20n 20n 3.18u 5u)
XU1 0 powcalc
D1 0 N004 Dx
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.mos
.tran 0 45m 0 steady startup
.model SW1 SW(Ron=1m Roff=1Meg Vt=.5 Vh=-.4
.model Dx D (Is=1u bv=15 Ibv=1m Vpk=15 Iave=25A)
.ic V(uout2)=8V
.lib powcalc.sub
.backanno
.end
