* Z:\media\data\CODES\LTSpice_projects\BuckBoostInv_swconverter\buck_labor_ft_geregelt.asc
L1 sw_buck out_buck {L1}
D1 0 sw_buck Dx
CA1 ca 0 {CA}
Rs1 out_buck ca {Rs}
Rpar1 sw_buck 0 20k
Cpar1 sw_buck 0 400p
RL1 out_buck 0 {RL}
V1 E 0 20 Rser=1m
I1 out_buck 0 {IL}
S2 0 0 sw_load 0 sw
V3 sw_load 0 PULSE(0 1 3m {trf} {trf} 3m)
E1 N001 0 out_buck 0 1
R1 out_buck_fil N001 330
C1 out_buck_fil 0 100n
E2 As 0 sw_load 0 Laplace=(1+s*Rs*CA)/(1+s*(Rs*Ca+L1/RL)+s**2*L1*CA*(1+Rs/RL))
R2 N009 N010 100k
R3 N010 Pout 10k
XU1 N010 saw N009 0 comp_oc Iout=15m Cfilt=1p
R4 N003 N009 9.5k
R5 N009 0 2.5k
V5 N003 0 12
XU2 soll N006 Pout opamp_param_3 Vp=10 Vm=-5 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 N008 N007 1µ
Rstell N007 N006 {Kr*2.2k}
R7 N006 out_buck 2.2k
V6 soll 0 {Vref}
C2 N008 Pout 47n
R8 N008 Pout 1µ
Q1 E N002 N005 0 BC547C
Q2 0 N002 N005 0 BC556B
RGate G N005 20
R9 E N002 5.6k
D2 N002 E BZX84C15L
Q3 N002 Kompout N011 0 BC547B
R10 N011 0 470
R11 0 saw 1k
V2 saw 0 PULSE(4 8 0 30u 3.3u 1p 33.3u)
R12 Kompout N009 1m
R13 E N004 1µ
M1 sw_buck G N004 N004 BSS84
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.model sw  vswitch {Roff=1T Ron=1m Von=0.7 Voff=0.3 vh=-0.5}
.param fsw={1/33.3u}
.param RL=10
.param trf=100n
.param Rs=200m
.param L1=100u
.param CA=100u
.param p=0.25
.param IL=1.7
.param N=4
;.tran 0 20m {20m-N*33.3u}
.tran 0 10m 0 
;ac oct 100 1 1meg
* .step param Rs list 100m 1m 500u
.model Dx D {Ron=1m Roff=1T Vfwd=0.4}
* .step param Rs list 1p 200m
* .step param RL list 1T 10
.param Vref=6
.param Kr=0.25
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
