* Z:\media\data\HS_Karlsruhe\N4B\Messtechnik\simulation_MEsstechnik_DAC-ADC\Draft1.asc
R1 N002 N001 1k
C1 N002 0 1µ
V1 N001 0 1
.tran 10m uic
.backanno
.end
