* Z:\home\mainster\CODES_local\LTSpice_projects\sprachanalyse_ads\Draft1.asc
V1 mic 0 wavefile="z:/home/mainster/CODES_local/CoolEditPro/AUS_frau_Norm.wav" chan=0
B1 abs_mic 0 V=abs(V(mic))
R2 0 fil2 {RT}
C2 fil2 abs_mic {1/(2*pi*RT*fc2)}
* .options plotwinsize=0
* wavefile="z:/home/mainster/CODES_local/CoolEditPro/a_wh.wav" chan=0
.param fc = 1500
.param fc1 = 50
.param fc2 = 100
.param fc3 = 150
.param RT=100
.tran .8
.step param fc2 list 10 200 500 1000
.backanno
.end
